US04638000
In 2 ml of acetic acid is dissolved 0.4 g of tert-butyl 3(R)-[4-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylbutyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, and 2 ml of 30% hydrogen bromide-acetic acid solution is added to the solution, followed by allowing the mixture to stand at room temperature for 1.5 hours. Ethyl ether (50 ml) is added to the reaction solution, which is then allowed to stand. The supernatant is decanted, and the precipitate is washed with ethyl ether and dried to give 0.4 g of 3(R)-[1(R)-ethoxycarbonyl-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid.dihydrobromide as a colorless powder.

reactant | tert-butyl 3(R)-[4-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylbutyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC[C@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C35H47N3O7S
reactant | hydrogen bromide acetic acid | 2 ml | Br.C(C)(=O)O
reactant | Ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 3(R)-[1(R)-ethoxycarbonyl-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid.dihydrobromide | 0.4 g | Br.Br.C(C)OC(=O)[C@@H](CCCC1CCNCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | InChI=1S/C23H33N3O5S.2BrH/c1-2-31-23(30)17(7-5-6-16-10-12-24-13-11-16)25-18-15-32-20-9-4-3-8-19(20)26(22(18)29)14-21(27)28;;/h3-4,8-9,16-18,24-25H,2,5-7,10-15H2,1H3,(H,27,28);2*1H/t17-,18+;;/m1../s1
